US08183272B2
(1c) 1-(2-Bromo-3-hydroxy phenyl)ethanone
Under a nitrogen atmosphere, 1-(2-bromo-3-methoxy phenyl)ethanone (30.5 g, 229 mmol) which had been obtained in Reference example 1(1b) was dissolved in methylene chloride (500 mL), and added dropwise with a 1.0 M solution of tribromo phosphine in dichloromethane (293 mL, 293 mmol) at −80° C. over 5 hours. Upon the completion of the dropwise addition, the mixture was stirred for 17 hours at −40° C. Subsequently, the reaction solution was cooled to −80° C. and added dropwise with methanol (500 mL). Upon the completion of the dropwise addition, the temperature was raised to −40° C. followed by stirring for 3 hours. The temperature of the reaction solution was raised to room temperature. The solvent was distilled off under reduced pressure until the solution turned green. After adding ethanol, the mixture was extracted with ethyl acetate/hexane (1:1, V/V). After neutralization with a saturated aqueous solution of sodium hydrogen carbonate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate, 100:0-55:45, V/V) to give the title compound as a colorless oily substance (13.5 g, yield 47%).

reactant | 1-(2-bromo-3-methoxy phenyl)ethanone | 229 mmol, 30.5 g | BrC1=C(C=CC=C1OC)C(C)=O | C9H9BrO2
reactant | tribromo phosphine | BrP(Br)Br | Br3P
reactant | methanol | 500 mL | CO | CH4O
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 293 mmol, 293 mL | ClCCl | CH2Cl2
product | 1-(2-Bromo-3-hydroxy phenyl)ethanone | yield 47% | BrC1=C(C=CC=C1O)C(C)=O | C8H7BrO2
